US07129232B2
To a suspension of 5-amino-1-methyl-4-phenoxycarbonylaminopyrazole (153.8 g) in tetrahydrofuran (1 L) were added triethylamine (67 g) and triphenylmethyl chloride (185 g) at room temperature. The mixture was stirred for 6.5 hours. To the reaction mixture was added heptane (2.6 L), and the mixture was stirred for 1 hour. The precipitated solid was collected by filtration and washed with heptane-diisopropyl ether (1:1). The crude solid was suspended in water (3 L), and the suspension was stirred for 1 hour. The solid was collected by filtration and dried to give 1-methyl-4-phenoxycarbonylamino-5-triphenylmethylaminopyrazole (253.6 g).

reactant | 5-amino-1-methyl-4-phenoxycarbonylaminopyrazole | 153.8 g | NC1=C(C=NN1C)NC(=O)OC1=CC=CC=C1 | C11H12N4O2
reactant | triethylamine | 67 g | C(C)N(CC)CC | C6H15N
reactant | triphenylmethyl chloride | 185 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | heptane | 2.6 L | CCCCCCC | C7H16
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
product | 1-methyl-4-phenoxycarbonylamino-5-triphenylmethylaminopyrazole | 253.6 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)OC1=CC=CC=C1 | C30H26N4O2
